US05527934
In the same apparatus and procedures as EXAMPLE 1, 8 g(0.04 mole) of bisdichlorosilylmethane, 12.7 g (0.15 mole) of 1-hexene and 120 μl of 1% chloroplatinic acid solution in isopropanol were placed and reacted for 2 hours at reflux under the dry nitrogen atmosphere. Vacuum distillation of the reaction products gave 11.1 g (118°-120° C./0.05 mmHg) of bis(hexyldichlorosilyl)methane in 72.6% yield.

reactant | bisdichlorosilylmethane | 0.04 mole, 8 g | Cl[SiH](Cl)C[SiH](Cl)Cl | CH4Cl4Si2
reactant | 1-hexene | 0.15 mole, 12.7 g | C=CCCCC | C6H12
solvent | isopropanol | C(C)(C)O | C3H8O
catalyst | chloroplatinic acid | 120 μl | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | bis(hexyldichlorosilyl)methane | 11.1 g, 72.6% yield | C(CCCCC)[Si](Cl)(Cl)C[Si](CCCCCC)(Cl)Cl | C13H28Cl4Si2
